### PR TITLE
Lemmas on Stochastic Processes

### PR DESCRIPTION
**Pull request by TBUGTB**
This is work in progress on chapter 2 on stochastic processes.

### CODE REVIEW

File: BrownianMotion/Gaussian/StochasticProcesses.lean [hunk 1]
```diff
@@ -0,0 +1,62 @@
...
+
+lemma modification_of_indistinduishable (h : ∀ᵐ ω ∂P, ∀ t, X t ω = Y t ω) :
+    ∀ t, ∀ᵐ ω ∂P, X t ω = Y t ω := by
+  intro t
+  filter_upwards [h] with ω hω using hω t
+
+variable [MeasurableSpace E]
+
+lemma finite_distributions_eq {n : ℕ} {t : Fin n → T} (h : ∀ t, ∀ᵐ ω ∂P, X t ω = Y t ω) :
+  Measure.map (fun ω m ↦ X (t m) ω) P = Measure.map (fun ω m ↦ Y (t m) ω) P := by
```
Comment (RemyDegenne) [inline BrownianMotion/Gaussian/StochasticProcesses.lean:16]:
```suggestion
    P.map (fun ω m ↦ X (t m) ω) = P.map (fun ω m ↦ Y (t m) ω) := by
```

File: BrownianMotion/Gaussian/StochasticProcesses.lean [hunk 2]
```diff
@@ -0,0 +1,62 @@
...
+    exact h (t i)
+  refine Measure.map_congr ?_
+  filter_upwards [h']
+  simp_all only [Filter.eventually_all, implies_true, Set.mem_setOf_eq, Set.setOf_true,
+    Filter.univ_mem]
+
+lemma finite_distributions_eq_iff_same_law (hX : ∀ (t : T), Measurable (X t))
+  (hY : ∀ (t : T), Measurable (Y t)) : (∀ n : ℕ, ∀ tn : Fin n → T,
+  Measure.map (fun ω m ↦ X (tn m) ω) P = Measure.map (fun ω m ↦ Y (tn m) ω) P)
+  ↔ (Measure.map (fun ω t ↦ X t ω) P = Measure.map (fun ω t ↦ Y t ω) P) := by
```
Comment (RemyDegenne) [inline BrownianMotion/Gaussian/StochasticProcesses.lean:29]:
```suggestion
    (hY : ∀ (t : T), Measurable (Y t)) : (∀ n : ℕ, ∀ tn : Fin n → T,
    P.map (fun ω m ↦ X (tn m) ω) = Pmap (fun ω m ↦ Y (tn m) ω))
    ↔ (P.map (fun ω t ↦ X t ω) = P.map (fun ω t ↦ Y t ω)) := by
```

File: BrownianMotion/Gaussian/StochasticProcesses.lean [hunk 3]
```diff
@@ -0,0 +1,62 @@
...
+  have h': ∀ᵐ (ω : Ω) ∂P, ∀ (m : Fin n), X (t m) ω = Y (t m) ω := by
+    rw [MeasureTheory.ae_all_iff]
+    intro i
+    exact h (t i)
+  refine Measure.map_congr ?_
+  filter_upwards [h']
+  simp_all only [Filter.eventually_all, implies_true, Set.mem_setOf_eq, Set.setOf_true,
+    Filter.univ_mem]
+
+lemma finite_distributions_eq_iff_same_law (hX : ∀ (t : T), Measurable (X t))
```
Comment (RemyDegenne) [inline BrownianMotion/Gaussian/StochasticProcesses.lean:26]: AEMeasurable instead of Measurable should be enough, and we will need that generality.

File: BrownianMotion/Gaussian/StochasticProcesses.lean [hunk 4]
```diff
@@ -0,0 +1,62 @@
...
+  Measure.map (fun ω m ↦ X (tn m) ω) P = Measure.map (fun ω m ↦ Y (tn m) ω) P)
+  ↔ (Measure.map (fun ω t ↦ X t ω) P = Measure.map (fun ω t ↦ Y t ω) P) := by
+  constructor
+  · sorry
+  · intro h n tn
+    let proj := fun t : T → E ↦ (fun n0 ↦ t (tn n0))
+    have x: Measure.map (fun ω m ↦ X (tn m) ω) P
+      = Measure.map proj (Measure.map (fun ω t ↦ X t ω) P) := by
+      rw [Measure.map_map (f := fun ω t ↦ X t ω) (g := proj)]
+      repeat measurability
```
Comment (RemyDegenne) [inline BrownianMotion/Gaussian/StochasticProcesses.lean:37]: `fun_prop` is usually much faster than `measurability` (unless you are trying to prove measurability of sets and not functions).

File: BrownianMotion/Gaussian/StochasticProcesses.lean [hunk 5]
```diff
@@ -0,0 +1,62 @@
...
+    have y: Measure.map (fun ω m ↦ Y (tn m) ω) P
+      = Measure.map proj (Measure.map (fun ω t ↦ Y t ω) P) := by
+      rw [Measure.map_map]
+      repeat measurability
+    rw [x, y, h]
+
+open TopologicalSpace in
+lemma indistinduishable_of_modification [TopologicalSpace E] [TopologicalSpace T]
+  [SeparableSpace T] [T2Space T] (hX: ∀ᵐ ω ∂P, Continuous fun t ↦ X t ω)
```
Comment (RemyDegenne) [inline BrownianMotion/Gaussian/StochasticProcesses.lean:46]: The docstring of `SeparableSpace` states that in many cases we should use `SecondCountableTopology` instead. I'm not 100% sure that's such a case though.

**Review by RemyDegenne — COMMENTED** [review]
Looks good!

**Review by RemyDegenne — APPROVED** [review]
